US04414226
In dry tetrahydrofuran (80 ml) was dissolved 2-(2,3-dimethoxy-5-methylphenyl)-4,4-dimethyl-2-oxazoline (5 g). After addition of lithium amide (60 g), the mixture was stirred in a nitrogen gas stream at room temperature for 3 days. To the reaction mixture was added ice-water, followed by extraction with diethyl ether. The solvent layer was washed with water and dried over magnesium sulfate. The solvent was then distilled off to give a brown oil. This oil was chromatographed on silica gel to give colorless prisms (1.2 g) of 2-(2-amino-3-methoxy-5-methylphenyl)-4,4-dimethyl-2-oxazoline.

reactant | 2-(2,3-dimethoxy-5-methylphenyl)-4,4-dimethyl-2-oxazoline | 5 g | COC1=C(C=C(C=C1OC)C)C=1OCC(N1)(C)C | C14H19NO3
reactant | lithium amide | 60 g | [NH2-].[Li+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 2-(2-amino-3-methoxy-5-methylphenyl)-4,4-dimethyl-2-oxazoline | 1.2 g | NC1=C(C=C(C=C1OC)C)C=1OCC(N1)(C)C | C13H18N2O2
